US05434150
2-(1-Amidino-4-piperidinyl)-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-1-methyl-benzimidazole
Prepared from 5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-1-methyl-2-(4-piperidinyl)-benzimidazole and S-ethylisothiourea-hydrobromide by heating to 100° C. for 4 hours in dimethylformamide in the presence of sodium carbonate.

reactant | 5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-1-methyl-2-(4-piperidinyl)-benzimidazole | COC(=O)CCNC(=O)C1=CC2=C(N(C(=N2)C2CCNCC2)C)C=C1 | C18H24N4O3
reactant | S-ethylisothiourea-hydrobromide | Br.C(C)SC(N)=N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(1-Amidino-4-piperidinyl)-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-1-methyl-benzimidazole | C(N)(=N)N1CCC(CC1)C1=NC2=C(N1C)C=CC(=C2)C(=O)NCCC(=O)OC | C19H26N6O3
